US09284321B2
(R)-4-Methyl-6-phenyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one
A mixture of (R)-6-bromo-4-methyl-3,4-dihydropyrazino[1,2-a]indol-1(2H)-one [CAS No. 396075-75-5] (69.8 mg, 0.25 mmol) and commercially available phenylboronic acid (39.6 mg, 0.325 mmol) in 1,2-dimethoxyethane (1.67 ml) and 2M sodium carbonate solution (416 μl, 832 μmol) was purged with argon in an ultrasonic bath for 5 min. Then triphenylphosphine (13.1 mg, 50.0 μmol) and palladium(II)acetate (5.61 mg, 25.0 μmol) were added at room temperature, and afterwards the reaction mixture was allowed to stir for 2 h at 85° C. The reaction mixture was cooled to room temperature, poured into water (20 ml) and extracted with dichloromethane (2×20 ml). The combined organic layers were washed with brine (1×20 ml), dried (MgSO4) and evaporated. The crude material (70 mg) was purified by flash chromatography on silica gel [dichloromethane-dichloromethane/MeOH 9:1 (20-80%)] and subsequent trituration with diethyl ether (0.5 ml) and heptane (10 ml) to yield the title compound as a grey solid (60 mg, 87%), MS (ISN) m/z=277.2 [(M+H)+], mp 239° C.

reactant | (R)-6-bromo-4-methyl-3,4-dihydropyrazino[1,2-a]indol-1(2H)-one | BrC1=CC=CC=2C=C3N(C12)[C@@H](CNC3=O)C | C12H11BrN2O
reactant | phenylboronic acid | 0.325 mmol, 39.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 832 μmol, 2M, 416 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 50.0 μmol, 13.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dimethoxyethane | 1.67 ml | COCCOC | C4H10O2
catalyst | palladium(II)acetate | 25.0 μmol, 5.61 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 20 ml | O | H2O
product | (R)-4-Methyl-6-phenyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 60 mg, 87% | C[C@@H]1CNC(C=2N1C=1C(=CC=CC1C2)C2=CC=CC=C2)=O | C18H16N2O
